US05563141
A mixture of 6-chloronicotinic acid (3.21 g) and 1-(4-pyridyl) piperazine (3.32 g) was heated to 220° C. for 3 minutes. The mixture was cooled and methanol (10 ml)was added. The resulting suspension was boiled for 10 minutes, cooled and filtered to give 6-[4-(4-pyridyl)piperazin-1-yl]nicotinic acid (2.51 g) which was used without further purification.

reactant | 6-chloronicotinic acid | 3.21 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 1-(4-pyridyl) piperazine | 3.32 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | methanol | 10 ml | CO | CH4O
product | 6-[4-(4-pyridyl)piperazin-1-yl]nicotinic acid | 2.51 g | N1=CC=C(C=C1)N1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C15H16N4O2
